US05563131
Pregna-4,20-dien-3,6-dione 9
A solution of pregna-5,20-dien-3β-ol (300.5 mg, 1.000 mmol) in 35 mL of acetone was cooled in an ice water bath and 2.67M Jones reagent (0.71 mL, 1.9 mmol) was added. After stirring 11/2 h a further 0.71 mL of Jones reagent were added and the reaction was continued 45 min, 2-Propanol (1.0 mL) was added and the mixture was poured into 100 mL of water. The mixture was then extracted twice with 50 mL of ethyl acetate and the combined organic extracts were washed with 50 mL of saturated sodium bicarbonate+50 mL of water+50 mL of brine and filtered through a 21 mm dia×22 mm high column of silica gel 60. The column was eluted further with 25 mL of ethyl acetate and the combined filtrates were concentrated under reduced pressure. Recrystallization of the residue from 95% ethanol gave a light yellow powder (104.6 mg, 0.3348 mmol 33%), m.p. 114°-120° C. (NA- 1993A47)

reactant | pregna-5,20-dien-3β-ol | 1.000 mmol, 300.5 mg | C=C[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O | C21H32O
reactant | Jones reagent | 1.9 mmol, 2.67M, 0.71 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | Jones reagent | 0.71 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 2-Propanol | 1.0 mL | CC(C)O | C3H8O
reactant | water | 100 mL | O | H2O
solvent | acetone | 35 mL | CC(=O)C | C3H6O
product | Pregna-4,20-dien-3,6-dione | C=C[C@H]1CC[C@H]2[C@@H]3CC(C4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)=O | C21H28O2
